US09238647B2
Step A: Methyl 3-[(2-hydroxy-2-methylpropyl)amino]-4-nitrobenzoate
To a solution of methyl 3-fluoro-4-nitrobenzoate (2.0 g, 10.04 mmol) in DMSO (10.04 mL) was added cesium carbonate (9.82 g, 30.1 mmol) and 1-amino-2-methylpropan-2-ol (0.985 g, 11.05 mmol). The reaction mixture was stirred at ambient temperature for 30 min. Saturated sodium bicarbonate and EtOAc were added to the mixture. The aqueous layer was extracted EtOAc (3×). The combined organics were washed with brine, dried over magnesium sulfate, filtered and concentrated to give the title compound without further purification (3.18 g): LC-MS [M+1]=269.2.

reactant | methyl 3-fluoro-4-nitrobenzoate | 10.04 mmol, 2.0 g | FC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H6FNO4
reactant | cesium carbonate | 30.1 mmol, 9.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-amino-2-methylpropan-2-ol | 11.05 mmol, 0.985 g | NCC(C)(O)C | C4H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMSO | 10.04 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 3-[(2-hydroxy-2-methylpropyl)amino]-4-nitrobenzoate | OC(CNC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-])(C)C | C12H16N2O5
